US05108486
Following procedures similar to those employed in Step A of Example 2, the reaction of 3.5 g (0.017 mole) of (2-diethylaminopyridin-5-yl) isothiocyanate with 0.86 (0.019 mole) of methylhydrazine in 150 ml of ethanol yielded 2.5 g of 4-(2-diethylaminopyridin-5-yl)-2-methyl-3-thiosemicarbazide as a solid, mp 147°-149° C. The nmr spectrum was consistent with the proposed structure.

reactant | (2-diethylaminopyridin-5-yl) isothiocyanate | 0.017 mole, 3.5 g | C(C)N(C1=NC=C(C=C1)N=C=S)CC | C10H13N3S
reactant | methylhydrazine | CNN | CH6N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(2-diethylaminopyridin-5-yl)-2-methyl-3-thiosemicarbazide | 2.5 g | C(C)N(C1=NC=C(C=C1)NC(N(N)C)=S)CC | C11H19N5S
